US06787534B2
Diethyl Methyl-(3-nitrobenzyl)malonate
In ethanol (45 ml) was dissolved sodium (0.7 g), and diethyl methylmalonate (5.26 ml) and 3-nitrobenzyl chloride (5 g) were added thereto, followed by heating under reflux for 2 hours. The reaction mixture was ice-cooled, an aqueous saturated ammonium chloride was added thereto, followed by extracting with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give the title compound (9.724 g) as a pale yellow oil.

reactant | sodium | 0.7 g | [Na] | Na
reactant | diethyl methylmalonate | 5.26 ml | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | 3-nitrobenzyl chloride | 5 g | [N+](=O)([O-])C=1C=C(CCl)C=CC1 | C7H6ClNO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 45 ml | C(C)O | C2H6O
product | Diethyl Methyl-(3-nitrobenzyl)malonate | 9.724 g | CC(C(=O)OCC)(C(=O)OCC)CC1=CC(=CC=C1)[N+](=O)[O-] | C15H19NO6
